US06420409B1
Production of Sodium 4-pentene-1-sulfonate
5-Bromo-1-pentene (199.74 g), sodium sulfite (202.67 g), and water (650 ml) were mixed at room temperature. Under reflux, the solution was stirred for 19 hours. After cooling to room temperature, t-butyl methyl ether was added thereto. The aqueous layer separated was concentrated and dehydrated azeotropically with toluene. Thus, sodium 4-pentene-1-sulfonate (1) containing inorganic substances (387.51 g) was obtained as white solid.

reactant | 5-Bromo-1-pentene | 199.74 g | BrCCCC=C | C5H9Br
reactant | sodium sulfite | 202.67 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 650 ml | O | H2O
solvent | t-butyl methyl ether | COC(C)(C)C | C5H12O
product | Sodium 4-pentene-1-sulfonate | C(CCC=C)S(=O)(=O)[O-].[Na+] | InChI=1S/C5H10O3S.Na/c1-2-3-4-5-9(6,7)8;/h2H,1,3-5H2,(H,6,7,8);/q;+1/p-1
